US09340488B2
Preparation of 2-(tetradecylamino)propane-1,3-diol (AD2750)
3 g of 2 amino-1,3-propanediol were dissolved in 100 ml ethanol, 4 ml tetradecyl bromide were added followed by 5 ml diisopropyl ethylamine. The mixture was heated to reflux for 24 hours in a 250 ml round bottom flask equipped with a reflux condenser and stirred on a magnetic stirrer. The solution was evaporated to dryness and dissolved in 200 ml dichloromethane:methanol, 2:1, transferred to a 500 ml separatory funnel and washed with 75 ml 0.2N HCl. Phases were separated and the organic phase was washed again with 75 ml 0.1N HCl and 15 ml methanol. The organic phase was separated and dried on 5 g magnesium sulfate, filtered and evaporated to dryness. The resulted oil was crystallized from ethanol: H2O. Yield 1.2 g.

reactant | amino-1,3-propanediol | NC(CCO)O | C3H9NO2
reactant | tetradecyl bromide | 4 ml | C(CCCCCCCCCCCCC)Br | C14H29Br
reactant | diisopropyl ethylamine | 5 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(tetradecylamino)propane-1,3-diol | C(CCCCCCCCCCCCC)NC(CO)CO | C17H37NO2
